US07074819B2
Step 4) Synthesis of diethyl 2-(2-bromoethyl)-2-(4,4,5,5,5-pentafluoropentyl)propane-1,3-dioate
Diethyl 2-(4,4,5,5,5-pentafluoropentyl)propane-1,3-dioate (51 0 mg, 1.592 mmol) was dissolved in anhydrous dimethoxyethane (5 ml). Sodium hydride (60%. 88 mg, 2.2 mmol) was added to the solution and then stirred at room temperature for 1 h under nitrogen atmosphere. Dibromoethane (0.82 ml, 9.55 mmol) was added to the mixture and then stirred at 70° C. for 5 h under nitrogen atmosphere. When the reaction was completed, the mixture was cooled to room temperature. Water was added to reaction solution which was then extracted with ethyl acetate. The extracted organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to column chromatography (n-hexane:dichloromethane=3:1) to obtain 489 mg (yield: 72° C.) of the title compound as a colorless oil.

reactant | Diethyl 2-(4,4,5,5,5-pentafluoropentyl)propane-1,3-dioate | 1.592 mmol, 0 mg | FC(CCCC(C(=O)OCC)C(=O)OCC)(C(F)(F)F)F | C12H17F5O4
reactant | Sodium hydride | 2.2 mmol, 88 mg | [H-].[Na+]
reactant | Dibromoethane | 9.55 mmol, 0.82 ml | BrC(C)Br | C2H4Br2
reactant | Water | O | H2O
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
product | diethyl 2-(2-bromoethyl)-2-(4,4,5,5,5-pentafluoropentyl)propane-1,3-dioate | 489 mg | BrCCC(C(=O)OCC)(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C14H20BrF5O4
